US08471005B2
A mixture of (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (250 mg, 0.646 mmol), 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (311 mg, 1.23 mmol), potassium acetate (184 mg, 1.87 mmol), and bis(tricyclohexylphosphine)palladium (0) (40.9 mg, 0.0613 mmol) in 1,4-dioxane (10.0 mL) was heated in a sealed tube at 110° C. for 6 hours. The reaction was filtered through celite and the celite was washed with DCM (20 mL). The solution was then concentrated under reduced pressure to obtain [4-(4-methyl-piperazin-1-yl)-phenyl]-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine (210 mg, 75%). The product was carried through to the next reaction without further purification.

reactant | (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.646 mmol, 250 mg | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19BrN6
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 1.23 mmol, 311 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 1.87 mmol, 184 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tricyclohexylphosphine)palladium (0) | 0.0613 mmol, 40.9 mg | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.[Pd]
product | [4-(4-methyl-piperazin-1-yl)-phenyl]-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | 210 mg, 75% | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2B2OC(C(O2)(C)C)(C)C | C23H31BN6O2
